US04141982
5-Acetyl-6-methyl-benzimidazole-2-carboxylic acid;
6-methyl-5-propionyl-benzimidazole-2-carboxylic acid; 6-methyl-5-valeryl-benzimidazole-2-carboxylic acid; 5(6)-butyrylbenzimidazole-2-carboxylic acid; 5-butyryl-6-methoxy-benzimidazole-2-carboxylic acid; 5-butyryl-6-chloro-benzimidazole-2-carboxylic acid; 5-cyclopropylcarbonyl-6-methyl-benzimidazole-2-carboxylic acid; 5-cyclohexylcarbonyl-6-methyl-benzimidazole-2-carboxylic acid; 5-(4-methoxy-butyryl)-6-methyl-benzimidazole-2-carboxylic acid; 6-methyl-5-(4-methylthiobutyryl)-benzimidazole-2-carboxylic acid; 6-methyl-5-(4-methylsulphinyl-butyryl)-benzimidazole-2-carboxylic acid; 6-methyl-5-(4-phenylthio-butyryl)-benzimidazole-2-carboxylic acid; 6-methyl-5-(4-phenylsulphinyl-butyryl)-benzimidazole-2-carboxylic acid; and methyl 5-butyryl-6-methyl-benzimidazole-2-carboxylate.

reactant | 6-methyl-5-propionyl-benzimidazole-2-carboxylic acid | CC=1C(=CC2=C(N=C(N2)C(=O)O)C1)C(CC)=O | C12H12N2O3
reactant | 6-methyl-5-valeryl-benzimidazole-2-carboxylic acid | CC=1C(=CC2=C(N=C(N2)C(=O)O)C1)C(CCCC)=O | C14H16N2O3
reactant | 5-butyryl-6-methoxy-benzimidazole-2-carboxylic acid | C(CCC)(=O)C1=CC2=C(N=C(N2)C(=O)O)C=C1OC | C13H14N2O4
reactant | 5-butyryl-6-chloro-benzimidazole-2-carboxylic acid | C(CCC)(=O)C1=CC2=C(N=C(N2)C(=O)O)C=C1Cl | C12H11ClN2O3
reactant | 5-cyclopropylcarbonyl-6-methyl-benzimidazole-2-carboxylic acid | C1(CC1)C(=O)C1=CC2=C(N=C(N2)C(=O)O)C=C1C | C13H12N2O3
reactant | 5-cyclohexylcarbonyl-6-methyl-benzimidazole-2-carboxylic acid | C1(CCCCC1)C(=O)C1=CC2=C(N=C(N2)C(=O)O)C=C1C | C16H18N2O3
reactant | 5-(4-methoxy-butyryl)-6-methyl-benzimidazole-2-carboxylic acid | COCCCC(=O)C1=CC2=C(N=C(N2)C(=O)O)C=C1C | C14H16N2O4
reactant | 6-methyl-5-(4-methylthiobutyryl)-benzimidazole-2-carboxylic acid | CC=1C(=CC2=C(N=C(N2)C(=O)O)C1)C(CCCC)=S | C14H16N2O2S
reactant | 6-methyl-5-(4-methylsulphinyl-butyryl)-benzimidazole-2-carboxylic acid | CC=1C(=CC2=C(N=C(N2)C(=O)O)C1)C(CCCS(=O)C)=O | C14H16N2O4S
reactant | 6-methyl-5-(4-phenylthio-butyryl)-benzimidazole-2-carboxylic acid | CC=1C(=CC2=C(N=C(N2)C(=O)O)C1)C(CCCC1=CC=CC=C1)=S | C19H18N2O2S
reactant | 6-methyl-5-(4-phenylsulphinyl-butyryl)-benzimidazole-2-carboxylic acid | CC=1C(=CC2=C(N=C(N2)C(=O)O)C1)C(CCCS(=O)C1=CC=CC=C1)=O | C19H18N2O4S
reactant | methyl 5-butyryl-6-methyl-benzimidazole-2-carboxylate | C(CCC)(=O)C1=CC2=C(N=C(N2)C(=O)OC)C=C1C | C14H16N2O3
product | 5-Acetyl-6-methyl-benzimidazole-2-carboxylic acid | C(C)(=O)C1=CC2=C(N=C(N2)C(=O)O)C=C1C | C11H10N2O3
